US07465731B2
To a solution of tert-butyl [(3R)-1-(3-nitrobenzyl)-3-pyrrolidinyl]carbamate (750 mg) in ethanol (5.6 mL) and H2O (1.9 mL) was added NH4Cl (62.4 mg) and Fe (391 mg), which was stirred under reflux for 1 hour. The resultant was filtered and evaporated in vacuo. The residue was washed water and brine. The organic layer was dried over Na2SO4, filtered, and evaporated in vacuo to give tert-butyl [(3R)-1-(3-aminobenzyl)-3-pyrrolidinyl]carbamate (645 mg) as a brown oil.

reactant | tert-butyl [(3R)-1-(3-nitrobenzyl)-3-pyrrolidinyl]carbamate | 750 mg | [N+](=O)([O-])C=1C=C(CN2C[C@@H](CC2)NC(OC(C)(C)C)=O)C=CC1 | C16H23N3O4
reactant | NH4Cl | 62.4 mg | [NH4+].[Cl-]
solvent | ethanol | 5.6 mL | C(C)O | C2H6O
solvent | H2O | 1.9 mL | O | H2O
catalyst | Fe | 391 mg | [Fe] | Fe
product | tert-butyl [(3R)-1-(3-aminobenzyl)-3-pyrrolidinyl]carbamate | 645 mg | NC=1C=C(CN2C[C@@H](CC2)NC(OC(C)(C)C)=O)C=CC1 | C16H25N3O2
